US04788199
The procedure is as in Example 16, starting with 2-phenyl-4-quinolinepropanoic acid (3 g), thionyl chloride (2.3 cc) in chloroform (150 cc) and pyrrolidine (2.7 cc). The residue is stirred for two hours with silica gel (36 g) in ethyl acetate (80 cc). The silica is removed by filtration and washed with ethyl acetate (7×10 cc). The organic phases are combined and concentrated under reduced pressure. After recrystallization of the residue in ethyl acetate, 1-[3-(2-phenyl-4-quinolyl)propionyl]pyrrolidine (2 g), m.p. 116° C., is obtained.

reactant | 2-phenyl-4-quinolinepropanoic acid | 3 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)CCC(=O)O | C18H15NO2
reactant | thionyl chloride | 2.3 cc | S(=O)(Cl)Cl | Cl2OS
reactant | pyrrolidine | 2.7 cc | N1CCCC1 | C4H9N
solvent | chloroform | 150 cc | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 80 cc | C(C)(=O)OCC | C4H8O2
product | 1-[3-(2-phenyl-4-quinolyl)propionyl]pyrrolidine | 2 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)CCC(=O)N1CCCC1 | C22H22N2O
